US04323692
Into a three liter flask is added 1.3 liters of acetic acid, 614 g. (1.90 mole) of 88.8% pure 3-(2-chloro-4-trifluoromethylphenoxy)toluene, and 32.0 g. (0.128 mole) of cobalt acetate tetrahydrate. To this stirred pink solution is added 20.0 ml (0.173 mole) of 47% aqueous hydrogen bromide whereupon the solution turns blue. The solution is then heated to 90° C. and a flow of oxygen (100%, 2.19×10-2 mole/min) is initiated. Hydrogen peroxide 10.0 ml (30%, 0.088 mole) is then added via a syringe to the solution and the exotherm raises the reaction temperature to 98° C. within 5 minutes. The reaction is monitored by thin layer chromatography and is complete within 4 hours. Isolation of the oxidation product 3-(2-chloro-4-trifluoromethylphenoxy)benzoic acid from the reaction mixture is accomplished by distillation of the acetic acid solvent, neutralization with aqueous sodium hydroxide to a pH of 11, filtration to remove the insoluble cobalt hydroxides and acidification of the filtrate with sulfuric acid to precipitate the product, which is filtered and dried to give 680.3 g of 85.1% 3-(2-chloro-4-trifluoromethylphenoxy)benzoic acid. This represents of 96.1% yield of this product based on the 3-(2-chloro-4-trifluoromethylphenoxy)toluene starting material.

reactant | 3-(2-chloro-4-trifluoromethylphenoxy)toluene | 1.90 mole | ClC1=C(OC=2C=C(C=CC2)C)C=CC(=C1)C(F)(F)F | C14H10ClF3O
reactant | hydrogen bromide | 0.173 mole, 20.0 ml | Br | BrH
reactant | oxygen | O=O | O2
reactant | Hydrogen peroxide | 0.088 mole, 10.0 ml | OO | H2O2
reactant | acetic acid | 1.3 liters | C(C)(=O)O | C2H4O2
catalyst | cobalt acetate tetrahydrate | 0.128 mole | O.O.O.O.C(C)(=O)[O-].[Co+2].C(C)(=O)[O-]
product | 3-(2-chloro-4-trifluoromethylphenoxy)benzoic acid | 680.3 g, 85.1% | ClC1=C(OC=2C=C(C(=O)O)C=CC2)C=CC(=C1)C(F)(F)F | C14H8ClF3O3
